US08703767B2
13. Preparation of N-(3-(6-((4-(4-methylpiperazin-1-yl)phenyl)amino)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide
N-(3-(6-Chloro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide (30 mg, 0.078 mmol), 4-(4-methylpiperazin-1-yl)aniline (16 mg, 0.084 mmol)) and potassium carbonate (25 mg, 0.077 mmol) were dissolved in t-butyl alcohol (5 mL) in a sealable microwave compatible reaction tube, then Pd2(dba)3 (1.5 mg, 0.002 mmol) and Xantphos (2 mg, 0.004 mmol) were added. The reaction tube was sealed and the reaction was heated under microwave irradiation (40 min, 200° C., 3 atm). The compound was purified by column chromatography. 1H NMR (400 MHz, CD3OD): δ 8.66 (s, 1H), 8.29 (s, 1H), 7.95 (d, 1H, J=7.6 Hz), 7.72 (m, 3H), 7.51 (t, 1H, J=8.4 Hz), 6.98 (m, 2H), 6.51-6.39 (m, 2H), 5.90 (d, 1H, J=8.8 Hz), 5.80 (dd, 1H, J=2.0 and 9.6 Hz), 4.06 (m, 1H), 3.79 (m, 1H), 3.15 (m, 4H), 3.02 (m, 1H), 2.62 (m, 5H), 2.34 (s, 3H), 2.12 (m, 1H), 1.94 (m, 1H), 1.83-1.70 (m, 2H); ESI-MS: 539.30 [M+H]+.

reactant | N-(3-(6-Chloro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide | 0.078 mmol, 30 mg | ClC1=NC(=C2C(=N1)N(N=C2)C2OCCCC2)C=2C=C(C=CC2)NC(C=C)=O | C19H18ClN5O2
reactant | 4-(4-methylpiperazin-1-yl)aniline | 0.084 mmol, 16 mg | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | potassium carbonate | 0.077 mmol, 25 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Xantphos | 0.004 mmol, 2 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | t-butyl alcohol | 5 mL | C(C)(C)(C)O | C4H10O
catalyst | Pd2(dba)3 | 0.002 mmol, 1.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-(6-((4-(4-methylpiperazin-1-yl)phenyl)amino)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NC(=C2C(=N1)N(N=C2)C2OCCCC2)C=2C=C(C=CC2)NC(C=C)=O | C30H34N8O2
